US06630509B2
4-[2-(4-{3-[Benzyl(ethyl)amino]-2-ethoxypropyl}phenoxy)ethyl]-N-methylaniline
tert-Butyl 4-[2-(4-{3-[benzyl(ethyl)amino]-2-ethoxy-3-oxopropyl}phenoxy)ethyl]phenylcarbamate (5.2 g, 9.5 mmole) was dissolved in dry THF and cooled to 0° C. Borane methylsulfide (2 M, 11.9 ml, 23.8 mmole) was added dropwise. The reaction mixture was stirred at 0° C. for 0.5 hours after which it was allowed to reach room temperature and then refluxed for 5 hours. The reaction was quenched with water, extracted three times with ethyl acetate dried with magnesium sulfate and evaporated. The residue was redissolved in ethylacetate and chromatography on silica using a gradient system of ethylacetate:heptane (0-100%) gave 2.55 g (49% yield) of the desired product.

reactant | tert-Butyl 4-[2-(4-{3-[benzyl(ethyl)amino]-2-ethoxy-3-oxopropyl}phenoxy)ethyl]phenylcarbamate | 9.5 mmole, 5.2 g | C(C1=CC=CC=C1)N(C(C(CC1=CC=C(OCCC2=CC=C(C=C2)NC(OC(C)(C)C)=O)C=C1)OCC)=O)CC | C33H42N2O5
reactant | Borane methylsulfide | 23.8 mmole, 2 M, 11.9 ml | CSC.B
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
reactant | heptane | CCCCCCC | C7H16
solvent | THF | C1CCOC1 | C4H8O
product | 4-[2-(4-{3-[Benzyl(ethyl)amino]-2-ethoxypropyl}phenoxy)ethyl]-N-methylaniline | 2.55 g, 49% yield | C(C1=CC=CC=C1)N(CC(CC1=CC=C(OCCC2=CC=C(NC)C=C2)C=C1)OCC)CC | C29H38N2O2
